US07696215B2
To a solution of methyl 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoate (0.62 g) in methanol (10 ml) and water (4 ml) was added 2N NaOH (2.35 ml) and stirred at room temperature for 4 hours. 1N HCl was added and the reaction was allowed to stand for 16 hours and then concentrated. The residue was dissolved in methanol (40 ml), inorganics removed by filtration. The filtrate concentrated to give 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoic acid as a solid (0.60 g). Mass Spectrum: M+H+ 380.

reactant | methyl 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoate | 0.62 g | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)CN1CCOCC1 | C22H23N3O4
reactant | NaOH | 2N, 2.35 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | 0.60 g | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)CN1CCOCC1 | C21H21N3O4
